US08211928B2
(S)-tert-Butyl 3-amino-6-(4-(2-(1-(tert-butoxycarbonyl)pyrrolidin-2-yl)-1H-imidazol-5-yl)phenyl)-1H-indazole-1-carboxylate
A mixture of tert-butyl 3-amino-6-bromo-1H-indazole-1-carboxylate (1.17 g, 3.73 mmol), (S)-tert-butyl 2-(5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate (1.62 g, 3.68 mmol), NaHCO3 (0.96 g, 11 mmol) and Pd(PPh3)4 (212 mg, 0.184 mmol) was degassed and then heated at 80° C. After heating for 24 h the reaction mixture was poured into EtOAc/H2O (500/100 mL) and the mixture was shaken and the layers separated. The aq phase was extracted once more with EtOAc and the combined organic layers were washed (H2O, brine), dried (Na2SO4), and concentrated in vacuo. The residue was purified by BIOTAGE® (40+M, TLC 2:1 EtOAc:hex) affording a light yellow foam (807.8 mg) which was repurified by BIOTAGE® (TLC 6:3.5:0.5 hex:EtOAc:MeOH) to give the title compound as a light yellow solid (413.9 mg, 36%). 1H NMR (400 MHz, DMSO-d6) δ 11.86-12.22 (m, 1H), 8.20 (s, 1H), 7.85-7.92 (m, 3H), 7.75-7.76 (m, 1H), 7.68 (d, J=8.1 Hz, 1H), 7.53-7.62 (m, 2H), 6.35 (s, 2H), 4.75-4.86 (m, 1H), 3.49-3.58 (m, 1H), 3.35-3.39 (m, 1H), 2.10-2.26 (m, 1H), 1.80-2.01 (m, 3H), 1.60 (s, 9H), 1.40 and 1.15 (s, 9H, rotamers). LCMS: Anal. Calcd. for C30H36N6O4: 544; found: 545 (M+H)+.

reactant | tert-butyl 3-amino-6-bromo-1H-indazole-1-carboxylate | 3.73 mmol, 1.17 g | NC1=NN(C2=CC(=CC=C12)Br)C(=O)OC(C)(C)C | C12H14BrN3O2
reactant | (S)-tert-butyl 2-(5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 3.68 mmol, 1.62 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(CCC1)C(=O)OC(C)(C)C)C | C24H34BN3O4
reactant | NaHCO3 | 11 mmol, 0.96 g | C(=O)(O)[O-].[Na+]
catalyst | Pd(PPh3)4 | 0.184 mmol, 212 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-tert-Butyl 3-amino-6-(4-(2-(1-(tert-butoxycarbonyl)pyrrolidin-2-yl)-1H-imidazol-5-yl)phenyl)-1H-indazole-1-carboxylate | 807.8 mg | NC1=NN(C2=CC(=CC=C12)C1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(CCC1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C30H36N6O4
